US08791119B2
To a solution of 38.3 g (164 mmol) of ethyl 4-(3-fluoro-phenyl)-1H-pyrrole-3-carboxylate in 380 ml of tetrahydrofuran are added, over 30 minutes, 32.1 g (181 mmol) of N-bromosuccinimide (CAS 128-08-5), and the mixture is then stirred for 3 hours at reflux. After cooling, 200 ml of aqueous 5% sodium thiosulfate solution are added and the reaction product is extracted with ethyl acetate. The organic phase is dried over sodium sulfate and the solvent is evaporated off under reduced pressure, to give 17.1 g of ethyl 5-bromo-4-(3-fluorophenyl)-1H-pyrrole-3-carboxylate in the form of a white powder after recrystallizing from diisopropyl ether, filtering off and drying.

reactant | ethyl 4-(3-fluoro-phenyl)-1H-pyrrole-3-carboxylate | 164 mmol, 38.3 g | FC=1C=C(C=CC1)C=1C(=CNC1)C(=O)OCC | C13H12FNO2
reactant | N-bromosuccinimide | 181 mmol, 32.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 380 ml | O1CCCC1 | C4H8O
product | ethyl 5-bromo-4-(3-fluorophenyl)-1H-pyrrole-3-carboxylate | 17.1 g | BrC1=C(C(=CN1)C(=O)OCC)C1=CC(=CC=C1)F | C13H11BrFNO2
